US07579469B2
A mixture of 1-[4-(5-bromo-2-methoxyphenyl)-2-hydroxy-4-methyl-2-trifluoromethylpentyl]-1H-quinolin-4-one (0.2 g, 0.4 mmol), 3-thiopheneboronic acid (77 mg, 0.6 mmol), sodium carbonate (Na2CO3; 85 mg, 0.8 mmol) in DME-MeOH-DMF (1:1.5:0.5; 3.0 mL) was stirred for 10 minutes and Pd(PPh3)4 (46.2 mg, 0.04 mmol) was added. The mixture was microwaved for 15 minutes at 120° C., cooled to room temperature, and filtered through CELITE® filter aid. The residue was diluted with EtOAc (20 mL) and washed with aqueous NaOH (1.0M, 10 mL), water, and brine, and dried over sodium sulfate, and the volatiles removed in vacuo. The residue was purified by silica gel chromatography and then by reverse phase HPLC to yield 60 mg (30%) of 1-[2-hydroxy-4-(2-methoxy-5-thiophen-3-ylphenyl)-4-methyl-2-trifluoromethylpentyl]-1H-quinolin-4-one as a white foam.

reactant | 1-[4-(5-bromo-2-methoxyphenyl)-2-hydroxy-4-methyl-2-trifluoromethylpentyl]-1H-quinolin-4-one | 0.4 mmol, 0.2 g | BrC=1C=CC(=C(C1)C(CC(CN1C=CC(C2=CC=CC=C12)=O)(C(F)(F)F)O)(C)C)OC | C23H23BrF3NO3
reactant | 3-thiopheneboronic acid | 0.6 mmol, 77 mg | S1C=C(C=C1)B(O)O | C4H5BO2S
reactant | sodium carbonate | 0.8 mmol, 85 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | DME MeOH DMF | 3.0 mL | COCCOC.CO.CN(C)C=O
catalyst | Pd(PPh3)4 | 0.04 mmol, 46.2 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-[2-hydroxy-4-(2-methoxy-5-thiophen-3-ylphenyl)-4-methyl-2-trifluoromethylpentyl]-1H-quinolin-4-one | 60 mg, 30% | OC(CN1C=CC(C2=CC=CC=C12)=O)(CC(C)(C)C1=C(C=CC(=C1)C1=CSC=C1)OC)C(F)(F)F | C27H26F3NO3S
